US07645789B2
To a solution of 3-[1-(2-hydroxy-ethyl)-5-nitro-1H-indol-2-yl]-3-methyl-butyric acid ethyl ester (700 mg, 2.1 mmol) in THF (25 mL) was added DIBAL-H (1.0 M, 4.2 mL, 4.2 mmol) at −78° C. The mixture was stirred at room temperature for 1 h. Water (2 mL) was added and the resulting mixture was extracted with EtOAc (15 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and evaporated under vacuum. The residue was purified by chromatography on silica gel (15% ethyl acetate/petroleum) to afford 3-[1-(2-hydroxy-ethyl)-5-nitro-1H-indol-2-yl]-3-methyl-butan-1-ol (300 mg, 49%). 1H NMR (300 MHz, d-DMSO) δ 8.42 (d, J=1.5 Hz, 1H), 7.95 (dd, J=1.2, 8.7 Hz, 1H), 6.36 (d, J=9.3 Hz, 1H), 6.50 (s, 1H), 5.25 (br s, 1H), 4.46-4.42 (m, 4H), 3.69-3.66 (m, 2H), 3.24-3.21 (m, 2H), 1.42 (s, 6H).

reactant | 3-[1-(2-hydroxy-ethyl)-5-nitro-1H-indol-2-yl]-3-methyl-butyric acid ethyl ester | 2.1 mmol, 700 mg | C(C)OC(CC(C)(C)C=1N(C2=CC=C(C=C2C1)[N+](=O)[O-])CCO)=O | C17H22N2O5
reactant | DIBAL-H | 4.2 mmol, 1.0 M, 4.2 mL | CC(C)C[AlH]CC(C)C
reactant | Water | 2 mL | O | H2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 3-[1-(2-hydroxy-ethyl)-5-nitro-1H-indol-2-yl]-3-methyl-butan-1-ol | 300 mg, 49% | OCCN1C(=CC2=CC(=CC=C12)[N+](=O)[O-])C(CCO)(C)C | C15H20N2O4
